US05905074
A solution of 24 mg (0.08 mMol) of (4aR,5R,8aR)-5-[(R)-5-Hydroxy-1,5-dimethyl-hexyl]-4a-methyl-octahydro-naphtalen-1-one in 0.5 ml of tetrahydrofuran is cooled under stirring and Argon atmosphere to 0°. The reaction mixture is stirred for an additional hour after addition of 12 μl (0.08 mMol) of trimethylsilylimidazole, of 5.1 μl (0.04 mMol) of trimethylsilylchloride and of 2.8 mg (0.04 mMol) of imidazole. The reaction mixture is poured into ice water, extracted three times with diethylether, the combined organic extracts are washed twice with brine and dried over Na2SO4. The organic solvent is evaporated in vacuo and the residue is chromatographed over 5 g of silicagel with hexane/diethylether 9/1 to yield 25 mg of pure, oily (4aR,5R,8aR)-5-[(R)-1,5-Dimethyl-5-trimethylsilanyloxy-hexyl]-4a-methyl -octahydro-naphtalen-1-one

reactant | (4aR,5R,8aR)-5-[(R)-5-Hydroxy-1,5-dimethyl-hexyl]-4a-methyl-octahydro-naphtalen-1-one | 0.08 mMol, 24 mg | OC(CCC[C@@H](C)[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C | C19H34O2
reactant | trimethylsilylimidazole | 0.08 mMol, 12 μl | C[Si](C)(C)C=1NC=CN1 | C6H12N2Si
reactant | trimethylsilylchloride | 0.04 mMol, 5.1 μl | C[Si](C)(C)Cl | C3H9ClSi
reactant | imidazole | 0.04 mMol, 2.8 mg | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | (4aR,5R,8aR)-5-[(R)-1,5-Dimethyl-5-trimethylsilanyloxy-hexyl]-4a-methyl -octahydro-naphtalen-1-one | C[C@H](CCCC(C)(O[Si](C)(C)C)C)[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C | C22H42O2Si
